US06306887B1
A. 3-[3-(3-Methyl-1-{2-[4-(3-o-tolyl-ureido)-phenyl]-acetylamino}-butyl)-isoxazol-5-yl]-propionic acid
A mixture of 3-[3-(3-methyl-1-{2-[4-(3-o-tolyl-ureido)-phenyl]-acetylamino}butyl)-isoxazol-5-yl]-propionic acid methyl ester (17 mg) in tert-BuOH (1 ml) and 0.1 N NaOH (1 ml) was stirred at room temperature. After 20 h the mixture was concentrated under reduced pressure, dissolved in water (5 ml) and extracted with EtOAc (5 ml×3). The aqueous layer was then acidified to pH 3 with 1N HCl and extracted with EtOAc. The combined organics were washed with brine; dried over Na2SO4; filtered and concentrated under reduced pressure to give the title compound as a white amorphous solid. MP=?; MS [M+1]+ 493.2; 1H nmr (400 MHz, CD3OD) δ0.87 (d, 3H), 0.91 (d, 3H), 1.53-1.66 (m, 3H), 2.26 (s, 3H), 2.64 (t, J=7.4 Hz, 2H), 2.97 (t, J=7.5 Hz, 2H), 3.44 (s, 2H), 5.08 (m, 1H), 6.00 (s,1H), 6.99 (t, 1H), 7.11-7.36 (m, 6H), 7.59 (d, J=7.9 Hz, 1H).

reactant | 3-[3-(3-methyl-1-{2-[4-(3-o-tolyl-ureido)-phenyl]-acetylamino}butyl)-isoxazol-5-yl]-propionic acid methyl ester | 17 mg | COC(CCC1=CC(=NO1)C(CC(C)C)NC(CC1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)=O)=O | C28H34N4O5
solvent | tert-BuOH | 1 ml | C(C)(C)(C)O | C4H10O
solvent | NaOH | 0.1 N, 1 ml | [OH-].[Na+]
product | 3-[3-(3-Methyl-1-{2-[4-(3-o-tolyl-ureido)-phenyl]-acetylamino}-butyl)-isoxazol-5-yl]-propionic acid | CC(CC(NC(CC1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)=O)C1=NOC(=C1)CCC(=O)O)C | C27H32N4O5
